US09376452B2
Methyl 2-(3-benzoylthioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (SID 99381118, CID1251121)
To a combined mixture of methyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (ChemBridge, CAS 713111-73-0, 31 mg, 0.13 mmol, 1 equiv.) and PhCONCS (0.02 mL, 0.15 mmol, 1.2 equiv.) was added THF (0.7 mL). The resulting solution was stirred at 50° C. for 3 days. The solvent was then removed under reduced pressure and the crude product was triturated with hexanes, filtered, and rinsed with hexanes (4×5 mL). The product was further purified by preparatory HPLC (0-50% EtOAC:hexanes) and isolated as a white solid (38 mg, 72% yield). 1H NMR (400 MHz, CDCl3) δ 14.83 (s, 1H), 9.14 (s, 1H), 7.98 (dd, J=8.4, 1.2 Hz, 2H), 7.72-7.63 (m, 1H), 7.56 (dd, J=10.5, 4.8 Hz, 2H), 4.77 (t, J=1.5 Hz, 2H), 4.04 (s, 3H), 2.85 (s, 2H), 1.35 (s, 6H). LCMS retention time: 3.508 min; LCMS purity at 215 nm=96%. HRMS m/z calculated for C19H21N2O4S2 [M++1]: 405.0937. found 405.0942.

reactant | methyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.13 mmol, 31 mg, 1 equiv. | NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC | C11H15NO3S
reactant | THF | 0.7 mL | C1CCOC1 | C4H8O
product | Methyl 2-(3-benzoylthioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 38 mg, 72% yield | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC)=S | C19H20N2O4S2
